US07109219B2
Phenyl N-(5-iodo-4-(1-methylaminocarbonyl-1H-indol-5-yloxy)pyrimidin-2-yl)-N-(phenoxycarbonyl)carbamate
N1-Methyl-5-(2-amino-5-iodo-4-pyrimidyl)oxy-1H-1-indolecarboxamide (205 mg, 0.500 mmol) was suspended in tetrahydrofuran (5.0 ml); triethylamine (0.209 ml, 1.50 mmol) was added thereto while stirring. The suspension was cooled with ice; phenyl chloroformate (0.188 ml, 1.50 mmol) was added thereto; and the reaction mixture was stirred at room temperature for 3 hours. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate; and the organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and brine, and was dried over anhydrous magnesium sulfate. After solvent distillation, the obtained crude product was crystallized from ethyl acetate-hexane; and the crystals were filtered off, and dried under aeration to yield the title compound as white crystals (207 mg, 0.319 mmol, 64%).

reactant | N1-Methyl-5-(2-amino-5-iodo-4-pyrimidyl)oxy-1H-1-indolecarboxamide | 0.500 mmol, 205 mg | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=NC(=NC=C1I)N | C14H12IN5O2
reactant | triethylamine | 1.50 mmol, 0.209 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 1.50 mmol, 0.188 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | Phenyl N-(5-iodo-4-(1-methylaminocarbonyl-1H-indol-5-yloxy)pyrimidin-2-yl)-N-(phenoxycarbonyl)carbamate | 0.319 mmol, 207 mg, 64% | IC=1C(=NC(=NC1)N(C(OC1=CC=CC=C1)=O)C(=O)OC1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)C(=O)NC | C28H20IN5O6
